US04939162
A mixture of 10.8 parts of potassium carbonate, 5.4 parts of 1H-1,2,4-triazole, 20.5 parts of 2-(2,4-dichlorophenyl)-2-(bromomethyl)-4-methyl-1,3-dioxane, 0.2 parts of sodium iodide and 100 parts of dimethylsulfoxide is stirred during 36 hours at 100° C., cooled and poured onto 600 parts of water. The reaction mixture is extracted three times with ethyl acetate and the combined organic layers are washed with 200 parts of water, dried, filtered and evaporated. The residual oil is purified by column-chromatography over silica gel using ethyl acetate as eluent. The pure fractions are collected and the eluent is evaporated, yielding 1-[2-(2,4-dichlorophenyl)-4-methyl-1,3-dioxan-2-ylmethyl]-1H-1,2,4-triazole; nD22 : 1.5505.

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 1H-1,2,4-triazole | N1N=CN=C1 | C2H3N3
reactant | 2-(2,4-dichlorophenyl)-2-(bromomethyl)-4-methyl-1,3-dioxane | ClC1=C(C=CC(=C1)Cl)C1(OCCC(O1)C)CBr | C12H13BrCl2O2
reactant | sodium iodide | [I-].[Na+]
solvent | water | O | H2O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-[2-(2,4-dichlorophenyl)-4-methyl-1,3-dioxan-2-ylmethyl]-1H-1,2,4-triazole | ClC1=C(C=CC(=C1)Cl)C1(OCCC(O1)C)CN1N=CN=C1 | C14H15Cl2N3O2
